US08334287B2
b) 2-Allyloxy-6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyrazine
The title compound, white cristalline solid, MS: m/e=351.2, 353.2 (M+H+), was prepared in accordance with the general method of example 1b from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 2-Allyloxy-6-chloro-pyrazine (CAS: [107466-49-9].

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 2-Allyloxy-6-chloro-pyrazine | C(C=C)OC1=NC(=CN=C1)Cl | C7H7ClN2O
product | 2-Allyloxy-6-[4-(3-chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyrazine | C(C=C)OC1=NC(=CN=C1)N1C(=NC(=C1)C#CC1=CC(=CC=C1)Cl)C | C19H15ClN4O
